.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1550-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1550-102_freq port1 port2 PARAMS: Cpar=6.96pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=36
+ R2=0.00172
+ C= {Cpar}
+ K1=0.000001
+ K2=0.067
+ K3= {Ind}
+ K4=0.009
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=463.5842414
.ends MLC1550-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1550-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1550-102_imp port1 port2 PARAMS: Cpar=6.566pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=36
+ R2=0.00172
+ C= {Cpar}
+ K1=0.000001
+ K2=0.067
+ K3= {Ind}
+ K4=0.009
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=463.5842414
.ends MLC1550-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1550-252
* Inductance = 2.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1550-252_freq port1 port2 PARAMS: Cpar=6.26pF Ind=2.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=38
+ R2=0.00343
+ C= {Cpar}
+ K1=0.000001
+ K2=0.155
+ K3= {Ind}
+ K4=0.025
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=906.9595406
.ends MLC1550-252_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1550-252
* Inductance = 2.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1550-252_imp port1 port2 PARAMS: Cpar=5.891pF Ind=2.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=38
+ R2=0.00343
+ C= {Cpar}
+ K1=0.000001
+ K2=0.155
+ K3= {Ind}
+ K4=0.025
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=906.9595406
.ends MLC1550-252_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1550-452
* Inductance = 4.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1550-452_freq port1 port2 PARAMS: Cpar=6.66pF Ind=4.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=34
+ R2=0.00713
+ C= {Cpar}
+ K1=0.000001
+ K2=0.275
+ K3= {Ind}
+ K4=0.036
+ K5=0.0000088
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1390.082541
.ends MLC1550-452_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1550-452
* Inductance = 4.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1550-452_imp port1 port2 PARAMS: Cpar=6.365pF Ind=4.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=34
+ R2=0.00713
+ C= {Cpar}
+ K1=0.000001
+ K2=0.275
+ K3= {Ind}
+ K4=0.036
+ K5=0.0000088
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1390.082541
.ends MLC1550-452_imp

