.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1555-551
* Inductance = 550nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1555-551_freq port1 port2 PARAMS: Cpar=2.97pF Ind=0.55uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=0.00134
+ C= {Cpar}
+ K1=0.000001
+ K2=0.029
+ K3= {Ind}
+ K4=0.003
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=307.1509618
.ends MLC1555-551_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1555-551
* Inductance = 550nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1555-551_imp port1 port2 PARAMS: Cpar=2.858pF Ind=0.55uH
X1 port1 port2 Model1D PARAMS:
+ R1=35
+ R2=0.00134
+ C= {Cpar}
+ K1=0.000001
+ K2=0.029
+ K3= {Ind}
+ K4=0.003
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=307.1509618
.ends MLC1555-551_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1555-302
* Inductance = 3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1555-302_freq port1 port2 PARAMS: Cpar=5.84pF Ind=3uH
X1 port1 port2 Model1A PARAMS:
+ R1=36
+ R2=0.00406
+ C= {Cpar}
+ K1=0.000001
+ K2=0.2
+ K3= {Ind}
+ K4=0.036
+ K5=0.0000093
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1147.586026
.ends MLC1555-302_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1555-302
* Inductance = 3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1555-302_imp port1 port2 PARAMS: Cpar=5.429pF Ind=3uH
X1 port1 port2 Model1D PARAMS:
+ R1=36
+ R2=0.00406
+ C= {Cpar}
+ K1=0.000001
+ K2=0.2
+ K3= {Ind}
+ K4=0.036
+ K5=0.0000093
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1147.586026
.ends MLC1555-302_imp

