.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1560-901
* Inductance = 900nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1560-901_freq port1 port2 PARAMS: Cpar=3.44pF Ind=0.9uH
X1 port1 port2 Model1A PARAMS:
+ R1=27
+ R2=0.00172
+ C= {Cpar}
+ K1=0.000001
+ K2=0.052
+ K3= {Ind}
+ K4=0.007
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=475.2583294
.ends MLC1560-901_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1560-901
* Inductance = 900nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1560-901_imp port1 port2 PARAMS: Cpar=3.264pF Ind=0.9uH
X1 port1 port2 Model1D PARAMS:
+ R1=27
+ R2=0.00172
+ C= {Cpar}
+ K1=0.000001
+ K2=0.052
+ K3= {Ind}
+ K4=0.007
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=475.2583294
.ends MLC1560-901_imp

