.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1565-501
* Inductance = 500nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC1565-501_freq port1 port2 PARAMS: Cpar=3.95pF Ind=0.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=30
+ R2=0.00086
+ C= {Cpar}
+ K1=0.000001
+ K2=0.028
+ K3= {Ind}
+ K4=0.001
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=279.0791101
.ends MLC1565-501_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC1565-501
* Inductance = 500nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC1565-501_imp port1 port2 PARAMS: Cpar=3.896pF Ind=0.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=30
+ R2=0.00086
+ C= {Cpar}
+ K1=0.000001
+ K2=0.028
+ K3= {Ind}
+ K4=0.001
+ K5=0.000008
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=279.0791101
.ends MLC1565-501_imp

