.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC7532-101
* Inductance = 100nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC7532-101_freq port1 port2 PARAMS: Cpar=0.562pF Ind=0.105uH
X1 port1 port2 Model1A PARAMS:
+ R1=97
+ R2=0.0012
+ C= {Cpar}
+ K1=0.0000267
+ K2=0.00803
+ K3= {Ind}
+ K4=0.00293
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=191.1085752
.ends MLC7532-101_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC7532-101
* Inductance = 100nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC7532-101_imp port1 port2 PARAMS: Cpar=0.46pF Ind=0.105uH
X1 port1 port2 Model1D PARAMS:
+ R1=97
+ R2=0.0012
+ C= {Cpar}
+ K1=0.0000267
+ K2=0.00803
+ K3= {Ind}
+ K4=0.00293
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=191.1085752
.ends MLC7532-101_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC7532-221
* Inductance = 220nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC7532-221_freq port1 port2 PARAMS: Cpar=1.14pF Ind=0.22uH
X1 port1 port2 Model1A PARAMS:
+ R1=20
+ R2=0.0025
+ C= {Cpar}
+ K1=0.0000095
+ K2=0.0172
+ K3= {Ind}
+ K4=0.00846
+ K5=0.00000148
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=313.9569506
.ends MLC7532-221_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC7532-221
* Inductance = 220nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC7532-221_imp port1 port2 PARAMS: Cpar=0.87pF Ind=0.22uH
X1 port1 port2 Model1D PARAMS:
+ R1=20
+ R2=0.0025
+ C= {Cpar}
+ K1=0.0000095
+ K2=0.0172
+ K3= {Ind}
+ K4=0.00846
+ K5=0.00000148
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=313.9569506
.ends MLC7532-221_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC7542-311
* Inductance = 310nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC7542-311_freq port1 port2 PARAMS: Cpar=1.01pF Ind=0.31uH
X1 port1 port2 Model1A PARAMS:
+ R1=10
+ R2=0.0023
+ C= {Cpar}
+ K1=0.000001
+ K2=0.0174
+ K3= {Ind}
+ K4=0.0043
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=296.3625528
.ends MLC7542-311_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC7542-311
* Inductance = 310nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC7542-311_imp port1 port2 PARAMS: Cpar=0.931pF Ind=0.31uH
X1 port1 port2 Model1D PARAMS:
+ R1=10
+ R2=0.0023
+ C= {Cpar}
+ K1=0.000001
+ K2=0.0174
+ K3= {Ind}
+ K4=0.0043
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=296.3625528
.ends MLC7542-311_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC7542-601
* Inductance = 600nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC7542-601_freq port1 port2 PARAMS: Cpar=0.97pF Ind=0.6uH
X1 port1 port2 Model1A PARAMS:
+ R1=5
+ R2=0.00295
+ C= {Cpar}
+ K1=0.000001
+ K2=0.032
+ K3= {Ind}
+ K4=0.00659
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=467.3514259
.ends MLC7542-601_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC7542-601
* Inductance = 600nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC7542-601_imp port1 port2 PARAMS: Cpar=0.913pF Ind=0.6uH
X1 port1 port2 Model1D PARAMS:
+ R1=5
+ R2=0.00295
+ C= {Cpar}
+ K1=0.000001
+ K2=0.032
+ K3= {Ind}
+ K4=0.00659
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=467.3514259
.ends MLC7542-601_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC7540-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC7540-102_freq port1 port2 PARAMS: Cpar=1.4pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=10
+ R2=0.00442
+ C= {Cpar}
+ K1=0.000001
+ K2=0.0528
+ K3= {Ind}
+ K4=0.0227
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=624.4877742
.ends MLC7540-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC7540-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC7540-102_imp port1 port2 PARAMS: Cpar=1.244pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=10
+ R2=0.00442
+ C= {Cpar}
+ K1=0.000001
+ K2=0.0528
+ K3= {Ind}
+ K4=0.0227
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=624.4877742
.ends MLC7540-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC7540-142
* Inductance = 1.4uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC7540-142_freq port1 port2 PARAMS: Cpar=1.5pF Ind=1.4uH
X1 port1 port2 Model1A PARAMS:
+ R1=14
+ R2=0.0071
+ C= {Cpar}
+ K1=0.000001
+ K2=0.0864
+ K3= {Ind}
+ K4=0.0227
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=909.9312866
.ends MLC7540-142_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC7540-142
* Inductance = 1.4uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC7540-142_imp port1 port2 PARAMS: Cpar=1.386pF Ind=1.4uH
X1 port1 port2 Model1D PARAMS:
+ R1=14
+ R2=0.0071
+ C= {Cpar}
+ K1=0.000001
+ K2=0.0864
+ K3= {Ind}
+ K4=0.0227
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=909.9312866
.ends MLC7540-142_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC7540-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt MLC7540-222_freq port1 port2 PARAMS: Cpar=1.76pF Ind=2.17uH
X1 port1 port2 Model1A PARAMS:
+ R1=13
+ R2=0.0117
+ C= {Cpar}
+ K1=0.000001
+ K2=0.125
+ K3= {Ind}
+ K4=0.0338
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1133.516483
.ends MLC7540-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : MLC7540-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt MLC7540-222_imp port1 port2 PARAMS: Cpar=1.639pF Ind=2.17uH
X1 port1 port2 Model1D PARAMS:
+ R1=13
+ R2=0.0117
+ C= {Cpar}
+ K1=0.000001
+ K2=0.125
+ K3= {Ind}
+ K4=0.0338
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1133.516483
.ends MLC7540-222_imp

